US04493730
Preparation of 2-Hydroxy-3-nitro-6-(2-chloro-4-trifluoromethylphenoxy)pyridine
14.0 g of 2-amino-3-nitro-6-(2-chloro-4-trifluoromethylphenoxy)pyridine prepared in Preparation Example 2 was poured into 29 ml of concentrated sulfuric acid, and the mixture was heated at 60° C. Thereafter, the resulting mixture was allowed to stand for cooling, and further cooled with ice to 0° to 10° C. An aqueous solution of 4.6 g of sodium nitrite and 14 ml of water was gradually added dropwise thereto at the same temperature while stirring whereby the mixture was allowed to react. After completion of the reaction, the reaction product was poured into water, followed by subjecting to purification in the same manner as in Preparation Example 2 to obtain 10.3 g of a titled compound having a melting point of 87° to 93° C.

reactant | 2-amino-3-nitro-6-(2-chloro-4-trifluoromethylphenoxy)pyridine | 14.0 g | NC1=NC(=CC=C1[N+](=O)[O-])OC1=C(C=C(C=C1)C(F)(F)F)Cl | C12H7ClF3N3O3
reactant | sulfuric acid | 29 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 4.6 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 14 ml | O | H2O
product | 2-Hydroxy-3-nitro-6-(2-chloro-4-trifluoromethylphenoxy)pyridine | 10.3 g | OC1=NC(=CC=C1[N+](=O)[O-])OC1=C(C=C(C=C1)C(F)(F)F)Cl | C12H6ClF3N2O4
